US06159904
2.0 Grams (7.0 mmol) of 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one was dissolved in 10 ml of acetic acid, and 10 ml of a 4N hydrochloric acid aqueous solution was added. The mixture was refluxed under heat for 5 hours. After allowed to cool to room temperature, the reaction mixture was diluted with about 100 ml of water, and a precipitated solid was extracted with ethyl acetate. A carboxylic acid component was extracted from an organic layer with a saturated sodium hydrogencarbonate aqueous solution, and an aqueous layer was neutralized and acidified with a 5 wt % hydrochloric acid aqueous solution. A precipitated solid was extracted with ethyl acetate, and an organic layer was washed with a saturated sodium chloride aqueous solution and dried over anhydrous sodium sulfate. The solvent was distilled off to give 1.6 g (yield 90%) of 6-carboxy-8-chloro-5-methylthiochroman-4-one in the form of a white solid.

reactant | 8-chloro-6-ethoxycarbonyl-5-methylthiochroman-4-one | 7.0 mmol | ClC=1C=C(C(=C2C(CCSC12)=O)C)C(=O)OCC | C13H13ClO3S
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | about 100 ml | O | H2O
product | 6-carboxy-8-chloro-5-methylthiochroman-4-one | 1.6 g, yield 90% | C(=O)(O)C=1C(=C2C(CCSC2=C(C1)Cl)=O)C | C11H9ClO3S
